US06858739B2
[5-(5,6-Difluoro-1H-indol-2-yl)-2-methoxy-phenyl]-(4-methoxy-benzyl)-amine
4-Methoxybenzaldehyde (0.204 g, 1.5 mmol) was added to a stirred mixture of 5-(5,6-difluoro-1H-indol-2-yl)-2-methoxy-phenylamine (0.405 g, 1.48 mmol) in methylene chloride (125 mL), followed by acetic acid (0.3 g, 1.5 mmol). The resulting mixture was stirred at room temperature for 1 hour. Sodium triacetoxyborohydride (0.31 g, 1.46 mmol) was added in one portion, and the resulting homogeneous solution stirred at room temperature for 3 days. Saturated aqueous sodium bicarbonate solution (100 mL) was added and the mixture stirred for 2 hours. The mixture was shaken, the organic layer separated and dried over Na2SO4. The solvent was evaporated to give a yellow oil. Recrystallization from methanol/water gave the product as off-white crystals (270 mg); mp 173-175° C.

reactant | 4-Methoxybenzaldehyde | 1.5 mmol, 0.204 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 5-(5,6-difluoro-1H-indol-2-yl)-2-methoxy-phenylamine | 1.48 mmol, 0.405 g | FC=1C=C2C=C(NC2=CC1F)C=1C=CC(=C(C1)N)OC | C15H12F2N2O
reactant | acetic acid | 1.5 mmol, 0.3 g | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 1.46 mmol, 0.31 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
product | [5-(5,6-Difluoro-1H-indol-2-yl)-2-methoxy-phenyl]-(4-methoxy-benzyl)-amine | 270 mg | FC=1C=C2C=C(NC2=CC1F)C=1C=CC(=C(C1)NCC1=CC=C(C=C1)OC)OC | C23H20F2N2O2
